US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-nitro-1-benzothiophene-2-carboxamide hydrochloride
420 mg (1.88 mmol) of 5-nitro-1-benzothiophene-2-carboxylic acid, 374.7 mg (1.88 mmol) of R-3-aminoquinuclidine dihydrochloride, 858.6 mg (2.26 mmol) of HATU, 875.5 mg (6.78 mmol) of N,N-diisopropylethylamine and 2.0 ml of DMF are reacted according to the general procedure (variant B). The resulting precipitate is suspended in 1N HCl in diethyl ether, filtered off, washed twice with dichloromethane and dried under high vacuum. 523 mg (75.6% of theory) of the title compound are obtained.

reactant | 5-nitro-1-benzothiophene-2-carboxylic acid | 1.88 mmol, 420 mg | [N+](=O)([O-])C=1C=CC2=C(C=C(S2)C(=O)O)C1 | C9H5NO4S
reactant | HATU | 2.26 mmol, 858.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 6.78 mmol, 875.5 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMF | 2.0 ml | CN(C)C=O | C3H7NO
reactant | HCl | 1N | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-nitro-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=C(C=C1)[N+](=O)[O-] | InChI=1S/C16H17N3O3S.ClH/c20-16(17-13-9-18-5-3-10(13)4-6-18)15-8-11-7-12(19(21)22)1-2-14(11)23-15;/h1-2,7-8,10,13H,3-6,9H2,(H,17,20);1H/t13-;/m0./s1
